US05852193
4-(2-piperidinoethoxy) benzoic acid hydrochloride
Into a 50 ml round bottom flask is placed 4.93 g (27.0 mmol) of 2,2,2-trifluoroethanesulfonyl chloride and 25 ml of methylene chloride. The resulting solution is cooled with an ice bath as 3.22 g (24.9 mmol) of 1-piperidinoethanol in 7 ml of methylene chloride is added dropwise. After the addition is complete, the ice bath is removed and the resulting slurry is stirred for about 12 hours. The reaction mixture is concentrated on a rotary evaporator to yield a waxy residue. The solid residue is slurried in 45 ml of amyl acetate and then potassium carbonate (5.50 g, 39.9 mmol) and methyl 4-hydroxybenzoate (2.26 g, 14.8 mmol) are added. The resulting mixture is heated to 140° C. for 2 hours. The reaction mixture is cooled to room temperature and washed twice with water and the organic layer is extracted with 10.5 ml of 8N hydrochloric acid. The aqueous layer is heated at gentle reflux for 4 hours. The resulting slurry is cooled to 50° C. and 11 ml of acetone is added. The slurry is cooled to 0°-5° C. and stirred for 1 hour. The product is filtered, washed with cold acetone, and dried at 50° C. in vacuo to yield 3.94 g of product, (90%). 1H NMR. HPLC 96.9%. TRS 2.78%.

reactant | 2,2,2-trifluoroethanesulfonyl chloride | 27.0 mmol, 4.93 g | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | 1-piperidinoethanol | 24.9 mmol, 3.22 g | N1(CCCCC1)C(C)O | C7H15NO
reactant | potassium carbonate | 39.9 mmol, 5.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-hydroxybenzoate | 14.8 mmol, 2.26 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | amyl acetate | 45 ml | C(C)(=O)OCCCCC | C7H14O2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-piperidinoethoxy) benzoic acid hydrochloride | 3.94 g, 90% | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
